US05112834
9. 8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-3-nitroso-imidazo[1,2-a]pyridine
0.5 g 8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine, dissolved in 50 ml tetrahydrofuran, are mixed with 0.6 g commercial butyl nitrite at 50° C. and left over night at this temperature. After evaporation of the volatile components in vacuo, residue is washed with few cold acetonitrile and, after the solvent is poured off, recrystallized from acetonitrile. 0.35 g yellow title compound of m.p. 178°-179° C. is obtained.

reactant | 8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine | 0.5 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)OC=1C=2N(C=CC1)C=C(N2)C | C17H16N2O2
reactant | butyl nitrite | 0.6 g | N(=O)OCCCC | C4H9NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-3-nitroso-imidazo[1,2-a]pyridine | 0.35 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)OC=1C=2N(C=CC1)C(=C(N2)C)N=O | C17H15N3O3
